US06437146B1
To a solution of (±)-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenylamine (110 mg, 0.27 mmol) in methylene chloride (3 ml) was added benzoylisocyanate (0.038 ml, 0.27 mmol) at 5° C., and the mixture was stirred at room temperature for 16 hours. To the mixture was added hexane (9 ml), and the resulting precipitate was collected, washed with hexane to give (±)-1-benzoyl-3-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenyl}urea (114.9 mg, 77%).

reactant | (±)-3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenylamine | 0.27 mmol, 110 mg | C1(=CC=CC=C1)C=1N=C(OC1C1=CC=CC=C1)C=1C(CCCC1)CC=1C=C(C=CC1)N | C28H26N2O
reactant | benzoylisocyanate | 0.27 mmol, 0.038 ml | C(C1=CC=CC=C1)(=O)N=C=O | C8H5NO2
reactant | hexane | 9 ml | CCCCCC | C6H14
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | (±)-1-benzoyl-3-{3-{[2-(4,5-diphenyloxazol-2-yl)-2-cyclohexen-1-yl]methyl}phenyl}urea | 114.9 mg, 77% | C(C1=CC=CC=C1)(=O)NC(=O)NC1=CC(=CC=C1)CC1C(=CCCC1)C=1OC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C36H31N3O3
